US08895547B2
1-(4-{2-[(S)-3-(tert-Butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl}phenyl)ethanone
To a suspension of [5-(4-boroxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine (400 mg) and potassium acetate (140 mg) in dioxane (6 ml) were added bis(triphenylphosphine)palladium(II)dichloride (60 mg) and acetyl chloride (120 μl), and the mixture was stirred at 50° C. overnight. The mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate and concentrated. This was followed by purification by column chromatography (ethyl acetate/heptane). This gave the product (172 mg) with a molecular weight of 562.8 g/mol (C28H39FN2O5SSi).

reactant | [5-(4-boroxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine | 400 mg | BOC1=CC=C(C=C1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)F)(=O)=O | C26H38BFN2O5SSi
reactant | potassium acetate | 140 mg | C(C)(=O)[O-].[K+]
reactant | acetyl chloride | 120 μl | C(C)(=O)Cl | C2H3ClO
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 60 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1-(4-{2-[(S)-3-(tert-Butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl}phenyl)ethanone | 172 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=C(C=CC=C1)F)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)C(C)=O)(C)C | C28H39FN2O5SSi
